US06878720B2
0.41 g Sodium nitrite in water is added to 1 g 4,5-dimethyl-2-nitroaniline in 3 mL conc. HCl and stirred for 1 hour at +4° C. This solution is added to a mixture of 0.67 g copper (I) cyanide, 0.98 g sodium cyanide, 0.32 g sodium carbonate, 25 mL of water and 3 mL toluene. The mixture is stirred for 12 hours at room temperature and worked up to give 0.45 g 4,5-dimethyl-2-nitrobenzonitrile. 4,5-Dimethyl-2-nitrobenzonitrile is reduced with iron powder in acetic acid to yield 4,5-dimethyl-2-aminobenzonitrile. 4,5-Dimethyl-2-aminobenzonitrile is heated at reflux for 12 hours in conc. HCl to give 4,5-dimethyl-2-aminobenzoic acid. 4,5-Dimethyl-2-aminobenzoic acid is reacted with trimethylsilyl diazomethane to yield methyl 4,5-dimethyl-2-aminobenzoate (Chem. Pharm. Bull. Vol. 29, 1475 (1981)).

reactant | 4,5-Dimethyl-2-aminobenzoic acid | CC1=CC(=C(C(=O)O)C=C1C)N | C9H11NO2
reactant | trimethylsilyl diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
product | methyl 4,5-dimethyl-2-aminobenzoate | CC1=CC(=C(C(=O)OC)C=C1C)N | C10H13NO2
